US06713474B2
d) trans-5-(3-Methyl-4-phenoxyphenyl)-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine
The title compound was prepared in a 75% yield from trans-4-{4-chloro-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-5-yl}-2-methylphenyl phenyl ether in a similar manner to that described for the preparation of trans-5-(3-methoxy-4-phenoxyphenyl)-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine acetate: 1H NMR (DMSO-d6, 400 MHz) δ 8.13(s, 1H), 7.42(m, 4H), 7.37(t, 2H), 7.27(m, 1H), 7.10 (t, 1H), 6.97(m, 3H), 6.11(bs, 2H), 4.55(m, 1H), 2.2-2.6(m, 9H), 2.22(s, 3H), 2.14 (s, 3H), 1.7-2.0(m, 6H), 1.45(m, 2H); MS MH+497.4; RP-HPLC (Hypersil HS, 5 μm, 100 A 4.6×250 mm; 5%-100% acetonitrile—0.05 M ammonium acetate over 25 min, 1 ml/min) tr 15.93 min.

reactant | trans-4-{4-chloro-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-5-yl}-2-methylphenyl phenyl ether | C1(=CC=CC=C1)OC1=C(C=C(C=C1)C1=CN(C=2N=CN=C(C21)Cl)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C)C | C30H34ClN5O
reactant | trans-5-(3-methoxy-4-phenoxyphenyl)-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine acetate | C(C)(=O)O.COC=1C=C(C=CC1OC1=CC=CC=C1)C1=CN(C=2N=CN=C(C21)N)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C
reactant | Hypersil | CO[C@H]1[C@@H](C[C@@H]2CN3CCC4=C([C@H]3C[C@@H]2[C@@H]1C(=O)OC)NC5=C4C=CC(=C5)OC)OC(=O)C6=CC(=C(C(=C6)OC)OC)OC | C33H40N2O9
solvent | acetonitrile | 0.05 M | C(C)#N | C2H3N
product | trans-5-(3-Methyl-4-phenoxyphenyl)-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 75% yield | CC=1C=C(C=CC1OC1=CC=CC=C1)C1=CN(C=2N=CN=C(C21)N)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C30H36N6O
